US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine in place of benzylamine, the title compound was obtained as a white powder in 77% yield: mp 165-166° C.; 1H NMR (300 MHz, CDCl3) δ 8.57 (s, 1H), 8.46 (d, J=4.5 Hz, 1H), 7.67 (d, J=8.1 Hz, 1H), 7.29-7.14 (m, 5H), 6.46 (t, J=5.4 Hz, 1H), 4.56 (d, J=5.4 Hz, 2H), 4.43 (s, 2H), 4.04 (t, J=8.1 Hz, 2H), 3.43 (t, J=8.1 Hz, 2H), 2.56 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.6, 157.2, 155.4, 153.5, 149.0, 148.0, 135.8, 134.3, 129.6, 118.6, 117.0, 47.2, 42.0, 41.7, 41.3, 17.2; MS (ES+) m/z 492.3 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC=C(C=C1)OC(F)(F)F)=O | C16H14F3N3O4S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 77% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C(N(CC1)CC1=CC=C(C=C1)OC(F)(F)F)=O | C22H20F3N5O3S
